US04229463
cis,cis-9,12-octadecadienoic acid, 2-benzyl-hydrazide
To a solution of 7.0 g linoleic acid in 250 ml methylenechloride cooled to -20° is added first 2.5 g triethylamine and then dropwise 2.7 g ethyl chloroformate. The reaction mixture is allowed gradually to come to room temperature and stirred for 2 hours. There is then added 5.0 g triethylamine followed by 4.9 g benzylhydrazine dihydrochloride and the reaction mixture then stirred for 16 hours. Thereafter the reaction mixture is extracted five times with portions of 2 N hydrochloric acid, then once with 2 N aqueous sodium hydroxide solution and washed extensively with saturated aqueous sodium chloride. The organic phase is then dried with anh. sodium sulphate, filtered and the filtrate evaporated i.v. to dryness. The residue is then chromatographed over silica gel, with chloroform as the eluent. The desired fractions* are collected, and evaporated i.v. to dryness to yield the title product as a viscous oil.

reactant | linoleic acid | 7.0 g | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O | C18H32O2
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.7 g | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 5.0 g | C(C)N(CC)CC | C6H15N
reactant | benzylhydrazine dihydrochloride | 4.9 g | Cl.Cl.C(C1=CC=CC=C1)NN
solvent | methylenechloride | 250 ml | C(Cl)Cl | CH2Cl2
product | cis,cis-9,12-octadecadienoic acid, 2-benzyl-hydrazide | C(C1=CC=CC=C1)NNC(CCCCCCC\C=C/C\C=C/CCCCC)=O | C25H40N2O
